US08937088B2
4-[4-({[4-bromo-3-(pentafluoro-λ6-sulfanyl)phenyl]carbamoyl}amino)-3-fluorophenoxy]-N-methylpyridine-2-carboxamide
The crude 1-bromo-4-isocyanato-2-(pentafluoro-λ6-sulfanyl)benzene was dissolved in DCM (70 mL). 4-(4-amino-3-fluorophenoxy)-N-methylpicolinamide (1.75 g, 6.71 mmol, 0.8 eq) was added at room temperature under N2. The mixture was stirred at room temperature for about 30 min, a lot of solid precipitated. DCM (30 mL) was added and made the mixture stirred at room temperature for 18 hrs. The solid was collected by filtration, washed with DCM (50 mL), and dried under high vacuum to afford 2.9 g of the title compound as a white solid.

reactant | 1-bromo-4-isocyanato-2-(pentafluoro-λ6-sulfanyl)benzene | BrC1=C(C=C(C=C1)N=C=O)S(F)(F)(F)(F)F | C7H3BrF5NOS
reactant | 4-(4-amino-3-fluorophenoxy)-N-methylpicolinamide | 6.71 mmol, 1.75 g, 0.8 eq | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)F | C13H12FN3O2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-({[4-bromo-3-(pentafluoro-λ6-sulfanyl)phenyl]carbamoyl}amino)-3-fluorophenoxy]-N-methylpyridine-2-carboxamide | 2.9 g | BrC1=C(C=C(C=C1)NC(=O)NC1=C(C=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)F)S(F)(F)(F)(F)F | C20H15BrF6N4O3S
